US07977351B2
5-Fluoro-3-(2-methyl-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (752 mg, 4.98 mmol.) in THF (5 mL) is placed under an argon atmosphere and cooled in an ice bath. A solution of Li bis(trimethylsilyl)amide (13.2 mL of a 1M in THF, 13.2 mmol) is added slowly at 0° C. and the resulting solution is stirred at 0° C. for 10 min. The ice-bath is removed and a solution of 2-methyl-7H-furo[3,4-b]pyridin-5-one (495 mg, 3.32 mmol) in THF (6 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 4.5 h and then poured into 50 mL of aqueous 10% HCl solution. After 10 min at room temperature, the reaction is heated to ˜90° C. for 45 min and is then stirred at room temperature for 36 h. The solid which precipitated from solution is collected by filtration and washed sequentially with small volumes of MeOH (3×5 mL), EtOAc (3×5 mL) and Et2O (3×5 mL) followed by drying to give the title compound as a yellow solid (450 mg, 48%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 4.98 mmol, 752 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | 2-methyl-7H-furo[3,4-b]pyridin-5-one | 3.32 mmol, 495 mg | CC1=CC=C2C(=N1)COC2=O | C8H7NO2
reactant | HCl | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3-(2-methyl-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one | 450 mg, 48% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)C | C16H11FN2O2
